### PR TITLE
[Merged by Bors] - feat: Prokhorov theorem

### PR DESCRIPTION
**Pull request by sgouezel**
We prove a version of Prokhorov theorem: given a sequence of compact sets `Kₙ` and a sequence `uₙ` tending to zero, the probability measures giving mass at most `uₙ` to the complement of `Kₙ` form a compact set. We deduce that a tight set of probability measures has compact closure. We only assume that the space is T2 (no metrizability, no second-countability).

---

The PR is somewhat long, but to me it looks like a coherent unit, so it makes sense to keep it like that. If you think it's too long to review and you'd rather have smaller chunks, just tell me and I'll split it.

- [x] depends on: #32778 
- [x] depends on: #32779 
- [x] depends on: #32783 
- [x] depends on: #32784
- [x] depends on: #32785
- [x] depends on: #32786

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 1]
```diff
@@ -0,0 +1,560 @@
...
+Authors: Sébastien Gouëzel
+-/
+module
+
+public import Mathlib.Algebra.Order.Disjointed
+public import Mathlib.MeasureTheory.Integral.Regular
+public import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Real
+public import Mathlib.MeasureTheory.Measure.ProbabilityMeasure
+public import Mathlib.MeasureTheory.Measure.Tight
+public import Mathlib.Topology.Separation.CompletelyRegular
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]: Some of those imports can be made non-public without any other change:
```suggestion
public import Mathlib.Algebra.Order.Disjointed
public import Mathlib.MeasureTheory.Measure.ProbabilityMeasure
public import Mathlib.MeasureTheory.Measure.Tight
import Mathlib.MeasureTheory.Integral.Regular
import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Real
import Mathlib.Topology.Separation.CompletelyRegular
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 2]
```diff
@@ -0,0 +1,560 @@
...
+    filter_upwards [hf] with μ hμ
+    simp only [mem_preimage, mem_Icc]
+    refine ⟨?_, ?_⟩
+    · calc - (C * ‖g.toBoundedContinuousFunction‖)
+      _ ≤ ∫ (x : E), - ‖g.toBoundedContinuousFunction‖ ∂μ := by
+        simp only [integral_const, smul_eq_mul, mul_neg, neg_le_neg_iff]
+        gcongr
+        exact hμ
+      _ ≤ ∫ (x : E), g x ∂μ := by
+        apply integral_mono
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]: `gcongr` works here. It does not make the proof significantly shorter but a generic tactic is better than a specific lemma.
```suggestion
      _ ≤ ∫ x, g x ∂μ := by
        gcongr
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 3]
```diff
@@ -0,0 +1,560 @@
...
+        · simp
+        · exact g.continuous.integrable_of_hasCompactSupport g.hasCompactSupport
+        · intro x
+          apply neg_le_of_abs_le
+          exact g.toBoundedContinuousFunction.norm_coe_le_norm x
+    · calc ∫ (x : E), g x ∂μ
+      _ ≤ ∫ (x : E), ‖g.toBoundedContinuousFunction‖ ∂μ := by
+        apply integral_mono
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
    · calc ∫ x, g x ∂μ
      _ ≤ ∫ (x : E), ‖g.toBoundedContinuousFunction‖ ∂μ := by
        gcongr
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 4]
```diff
@@ -0,0 +1,560 @@
...
+      _ ≤ C * ‖g.toBoundedContinuousFunction‖ := by
+        simp only [integral_const, smul_eq_mul]
+        gcongr
+        exact hμ
+  choose Λ h₀Λ hΛ using L
+  let Λ' : C_c(E, ℝ) →ₚ[ℝ] ℝ :=
+  { toFun := Λ
+    map_add' g g' := by
+      have : Tendsto (fun (μ : FiniteMeasure E) ↦ ∫ (x : E), g x + g' x ∂μ)
+          f (𝓝 (Λ g + Λ g')) := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
      have : Tendsto (fun (μ : FiniteMeasure E) ↦ ∫ x, g x + g' x ∂μ) f (𝓝 (Λ g + Λ g')) := by
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 5]
```diff
@@ -0,0 +1,560 @@
...
+        convert (hΛ g).add (hΛ g')
+        rw [integral_add]
+        · exact g.continuous.integrable_of_hasCompactSupport g.hasCompactSupport
+        · exact g'.continuous.integrable_of_hasCompactSupport g'.hasCompactSupport
+      exact tendsto_nhds_unique (hΛ (g + g')) this
+    map_smul' c g := by
+      have : Tendsto (fun (μ : FiniteMeasure E) ↦ ∫ (x : E), c • g x ∂μ)
+          f (𝓝 (c • Λ g)) := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
      have : Tendsto (fun (μ : FiniteMeasure E) ↦ ∫ x, c • g x ∂μ) f (𝓝 (c • Λ g)) := by
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 6]
```diff
@@ -0,0 +1,560 @@
...
+  convert hΛ g'
+  change ∫ (x : E), g' x ∂μlim' = Λ g'
+  simp only [FiniteMeasure.toMeasure_mk, RealRMK.integral_rieszMeasure, μlim', μlim]
+  rfl
+
+variable (E) in
+/-- In a compact space, the set of finite measures with mass `C` is compact. -/
+lemma isCompact_setOf_finiteMeasure_eq_of_compactSpace [CompactSpace E] (C : ℝ≥0) :
+    IsCompact {μ : FiniteMeasure E | μ.mass = C} := by
+  have : {μ : FiniteMeasure E | μ.mass = C} = {μ | μ.mass ≤ C} ∩  {μ | μ.mass = C} := by grind
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
  have : {μ : FiniteMeasure E | μ.mass = C} = {μ | μ.mass ≤ C} ∩ {μ | μ.mass = C} := by grind
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 7]
```diff
@@ -0,0 +1,560 @@
...
+  rw [this]
+  apply IsCompact.inter_right (isCompact_setOf_finiteMeasure_le_of_compactSpace E C)
+  exact isClosed_eq (by fun_prop) (by fun_prop)
+
+/-- In a compact space, the space of probability measures is also compact. -/
+instance [CompactSpace E] : CompactSpace (ProbabilityMeasure E) := by
+  constructor
+  apply (ProbabilityMeasure.toFiniteMeasure_isEmbedding E).isCompact_iff.2
+  simp only [image_univ, ProbabilityMeasure.range_toFiniteMeasure]
+  apply isCompact_setOf_finiteMeasure_eq_of_compactSpace
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
  simpa using isCompact_setOf_finiteMeasure_eq_of_compactSpace E 1
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 8]
```diff
@@ -0,0 +1,560 @@
...
+      refine ⟨(mass_map_le _ _).trans hμ, by simp [f]⟩
+  rw [this]
+  apply IsCompact.image _ (by fun_prop)
+  have : CompactSpace K := isCompact_iff_compactSpace.mp hK
+  exact isCompact_setOf_finiteMeasure_le_of_compactSpace _ _
+
+/-- **Prokhorov theorem**: Given a sequence of compact sets `Kₙ` and a sequence `uₙ` tending
+to zero, the finite measures of mass at most `C` giving mass at most `uₙ` to the complement of `Kₙ`
+form a compact set.
+-/
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
form a compact set. -/
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 9]
```diff
@@ -0,0 +1,560 @@
...
+      ∑ i ∈ Finset.range (n + 1), μ.restrict (disjointed K i) = μ.restrict (partialSups K n) := by
+    induction n with
+    | zero => simp
+    | succ n ih =>
+      simp only [Finset.sum_range_succ, ih]
+      rw [← FiniteMeasure.restrict_union]
+      · simp only [partialSups_add_one_eq_sup_disjointed, sup_eq_union]
+      · rw [← Order.succ_eq_add_one, disjointed_succ _ (not_isMax n)]
+        exact disjoint_sdiff_right
+      · apply MeasurableSet.disjointed (fun i ↦ (hK i).measurableSet)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]: With better API, this should be much shorter.

```suggestion
  have I (μ : FiniteMeasure E) (n : ℕ) :
      ∑ i ∈ Finset.range (n + 1), μ.restrict (disjointed K i) = μ.restrict (partialSups K n) := by
    rw [← biUnion_range_disjointed _ n, FiniteMeasure.restrict_biUnion_finset]
    · exact (disjoint_disjointed K).set_pairwise (Finset.range (n + 1))
    · exact MeasurableSet.disjointed (fun i ↦ (hK i).measurableSet)
```

This needs those two new lemmas:
```lean
lemma biUnion_range_disjointed {E : Type*} (s : ℕ → Set E) (n : ℕ) :
    (⋃ i ∈ Finset.range (n + 1), disjointed s i) = partialSups s n := by
  induction n with
  | zero => simp
  | succ n ih =>
    rw [Finset.range_add_one, Finset.set_biUnion_insert, ih,
      partialSups_add_one_eq_sup_disjointed, union_comm]
    simp

lemma FiniteMeasure.restrict_biUnion_finset {ι E : Type*} {_ : MeasurableSpace E}
    (μ : FiniteMeasure E) (T : Finset ι)
    (s : ι → Set E) (hd : (T : Set ι).Pairwise (Disjoint on s)) (hm : ∀ i, MeasurableSet (s i)) :
    μ.restrict (⋃ i ∈ T, s i) = ∑ i ∈ T, μ.restrict (s i) := by
  ext t ht
  simp only [restrict_measure_eq, toMeasure_sum, Measure.coe_finset_sum, Finset.sum_apply]
  rw [Measure.restrict_biUnion_finset hd hm]
  simp only [Measure.sum_fintype, Finset.univ_eq_attach, Measure.coe_finset_sum, Finset.sum_apply]
  conv_rhs => rw [← Finset.sum_attach]

```

Similarly, the next `have J` could be shorter if we extract first a lemma about a union of disjointed.

**Review by RemyDegenne — COMMENTED** [review]
Thanks! Here is a first, partial review.

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 10]
```diff
@@ -0,0 +1,560 @@
...
+    -- this follows from the corresponding result for finite sums, where we can use the
+    -- continuity of the mass of a finite measure under weak convergence.
+    simp only [MeasurableSet.univ, Measure.sum_apply]
+    have : Tendsto (fun n ↦ ∑ i ∈ Finset.range (n + 1), (ν i : Measure E) univ) atTop
+        (𝓝 (∑' i, (ν i : Measure E) univ)) :=
+      (ENNReal.tendsto_nat_tsum _).comp (tendsto_add_atTop_nat 1)
+    apply le_of_tendsto' this (fun n ↦ ?_)
+    have : ∑ i ∈ Finset.range (n + 1), (ν i : Measure E) univ
+        = (∑ i ∈ Finset.range (n + 1), ν i).toMeasure univ := by
+      simp only [toMeasure_sum, Measure.coe_finset_sum, Finset.sum_apply]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
        = (∑ i ∈ Finset.range (n + 1), ν i).toMeasure univ := by simp
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 11]
```diff
@@ -0,0 +1,560 @@
...
+        nth_rewrite 1 [this]
+        rw [toMeasure_add, integral_add_measure (g.integrable _) (g.integrable _)]
+        simp only [toMeasure_sum, dist_add_self_left]
+        calc ‖∫ x, g x ∂(ρ.restrict ((partialSups K) n)ᶜ)‖
+        _ ≤ ∫ x, ‖g x‖ ∂(ρ.restrict ((partialSups K) n)ᶜ) := norm_integral_le_integral_norm _
+        _ ≤ ∫ x, ‖g‖ ∂(ρ.restrict ((partialSups K) n)ᶜ : Measure E) := by
+          apply integral_mono_of_nonneg
+          · filter_upwards [] with x using by positivity
+          · simp
+          · filter_upwards [] with x using norm_coe_le_norm g x
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
          · filter_upwards with x using by positivity
          · simp
          · filter_upwards with x using norm_coe_le_norm g x
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 12]
```diff
@@ -0,0 +1,560 @@
...
+      · filter_upwards [] with x
+        by_cases hx : x ∈ (K n)ᶜ
+        · simpa [hx] using g_le x
+        · simp only [hx, not_false_eq_true, indicator_of_notMem]
+          apply le_of_eq
+          apply gK
+          simpa using hx
+    _ = ρ (K n)ᶜ := by
+      rw [integral_indicator (hK n).measurableSet.compl]
+      simp
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
    _ = ρ (K n)ᶜ := by simp [integral_indicator (hK n).measurableSet.compl]
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 13]
```diff
@@ -0,0 +1,560 @@
...
+    _ ≤ u n := by
+      norm_cast
+      exact hρ.2 n
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
    _ ≤ u n := mod_cast hρ.2 n
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 14]
```diff
@@ -0,0 +1,560 @@
...
+        grind
+      · simp +contextual only [Finset.mem_range_succ_iff, Finset.mem_Ioc, not_and,
+          not_true_eq_false, imp_false, not_lt]
+        intro i hi h'i
+        have : ν i (K n)ᶜ = 0 := by
+          apply le_antisymm ?_ bot_le
+          apply le_trans ?_ (νK i).le
+          gcongr
+          rw [Monotone.partialSups_eq h]
+          exact h h'i
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]: This would be shorter if we had a FiniteMeasure version of `measure_mono_null`. But do we want to copy the whole Measure API for FiniteMeasure?

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 15]
```diff
@@ -0,0 +1,560 @@
...
+        exact (null_iff_toMeasure_null (ν i) (K n)ᶜ).mp this
+    rw [this]
+    suffices ∑ i ∈ Finset.Ioc n m, (ν i : Measure E) univ ≤ u n by
+      apply le_trans _ this
+      gcongr
+      simp
+    have : ∑ i ∈ Finset.Ioc n m, (ν i : Measure E) univ
+        = (∑ i ∈ Finset.Ioc n m, ν i).toMeasure univ := by
+      simp only [toMeasure_sum, Measure.coe_finset_sum, Finset.sum_apply]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
        = (∑ i ∈ Finset.Ioc n m, ν i).toMeasure univ := by simp
```

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean [hunk 16]
```diff
@@ -0,0 +1,560 @@
...
+      simp
+    have : Tendsto (fun (μ : FiniteMeasure E) ↦
+        (∑ i ∈ Finset.Ioc n m, μ.restrict (disjointed K i)).mass) f
+        (𝓝 ((∑ i ∈ Finset.Ioc n m, ν i).mass)) := by
+      apply Tendsto.mass
+      exact tendsto_finset_sum _ (fun i hi ↦ hν i)
+    apply le_of_tendsto this
+    filter_upwards [hf] with μ hμ
+    rw [J hm h, restrict_mass]
+    apply le_trans (apply_mono _ (diff_subset_compl (K m) (K n))) (hμ.2 n)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Prokhorov.lean]:
```suggestion
    exact le_trans (apply_mono _ (diff_subset_compl (K m) (K n))) (hμ.2 n)
```

**Review by RemyDegenne — APPROVED** [review]
Thanks! This is great!

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Prokhorov.lean]: You're absolutely right. I had been a little bit lazy because it wasn't clear to me what the right generality was, so I had preferred to write a hand-made statement inside the proof than a general lemma with too strong assumptions. But it's definitely better to write proper API, so that's what I've done now (hopefully in the right generality).

File: Mathlib/MeasureTheory/Measure/Prokhorov.lean (hunk 14 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Prokhorov.lean]: Agreed. We don't want to copy the whole API, but I'd say whenever the need for a lemma shows up then let's add it. Done.

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
